US07399780B2
6-Chloro-N-[2-(dimethylamino)ethyl]pyridine-3-sulfonamide
The title compound was prepared as described for Example 29 using 6-chloropyridine-3-sulfonylchloride and N,N-dimethylethane-1,2-diamine. Yield: 72%: MS (MS) m/z 264 (M++1).

reactant | 6-chloropyridine-3-sulfonylchloride | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | N,N-dimethylethane-1,2-diamine | CN(CCN)C | C4H12N2
product | 6-Chloro-N-[2-(dimethylamino)ethyl]pyridine-3-sulfonamide | Yield: 72% | ClC1=CC=C(C=N1)S(=O)(=O)NCCN(C)C | C9H14ClN3O2S
